US06492355B1
a) 4-[4-Chloro-3-(ethoxycarbonyl)phenyl]hexahydro-1H-1,4-diazepine-1-carboxylic acid, 1,1-dimethylethyl ester
A mixture of 5-bromo-2-chloro-benzoic acid, ethyl ester (0.50 g), hexahydro-1H-1,4-diazepine-1-carboxylic acid, 1,1-dimethylethyl ester (0.46 g), cesium carbonate (0.86 g), palladium (II) acetate (8.5 mg) and (R)-BINAP (35 mg) in toluene (3 ml) was heated at 100° C. for 14 h in a pressure vessel flushed with nitrogen. The cooled reaction mixture was poured into water and extracted (3 times) with ethyl acetate. The combined organic extracts were washed with saturated sodium chloride solution and then dried over magnesium sulfate. Evaporation under reduced pressure gave an oil which was purified by chromatography over silica gel, eluting with 20% ethyl acetate in iso-hexane to yield the subtitle compound as an oil (0.21 g).

reactant | 5-bromo-2-chloro-benzoic acid, ethyl ester | 0.50 g | BrC=1C=CC(=C(C(=O)OCC)C1)Cl | C9H8BrClO2
reactant | hexahydro-1H-1,4-diazepine-1-carboxylic acid, 1,1-dimethylethyl ester | 0.46 g | N1(CCNCCC1)C(=O)OC(C)(C)C | C10H20N2O2
reactant | cesium carbonate | 0.86 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | (R)-BINAP | 35 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | toluene | 3 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium (II) acetate | 8.5 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 4-[4-Chloro-3-(ethoxycarbonyl)phenyl]hexahydro-1H-1,4-diazepine-1-carboxylic acid, 1,1-dimethylethyl ester | 0.21 g | ClC1=C(C=C(C=C1)N1CCN(CCC1)C(=O)OC(C)(C)C)C(=O)OCC | C19H27ClN2O4
